US06821967B2
c. 1-(8-ethoxy-naphthalen-2-yl)-piperazine
A solution of 24.9 g (0.072 mol) of 1-benzyl-4-(8-ethoxy-naphthalen-2-yl)-piperazine in 360 ml of ethanol is combined with 5 g of palladium on charcoal (10%) and stirred at a hydrogen pressure of 5 bar at ambient temperature. The catalyst is separated off, the filtrate is concentrated by evaporation and the residue is washed with diethylether.

reactant | 1-benzyl-4-(8-ethoxy-naphthalen-2-yl)-piperazine | 0.072 mol, 24.9 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC2=C(C=CC=C2C=C1)OCC | C23H26N2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 360 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 5 g | [Pd] | Pd
product | 1-(8-ethoxy-naphthalen-2-yl)-piperazine | C(C)OC=1C=CC=C2C=CC(=CC12)N1CCNCC1 | C16H20N2O
